US04071531
Ethyl 4-chloro-2-hydroxyimino-3-oxo-butyrate (340 g.) is dissolved in chloroform (1.5 liters) and 2-mercapto-ethanol (126 cc.) is then added. Triethylamine (248 cc.) dissolved in chloroform (1 liter) is added to the resulting solution at about 20° C., over the course of 30 minutes. The reagents are left in contact for 15 hours whilst stirring at about 20° C. Then the reaction mixture is washed with water (200 cc.) followed by 2 N hydrochloric acid (200 cc.) and finally four times with water (a total of 1 liter). The organic phase is dried over sodium sulphate treated with decolourising charcoal, filtered and concentrated to dryness under reduced pressure (20 mm.Hg). Ethyl 4-(2-hydroxy-ethylthio)-2-hydroxyimino-3-oxo-butyrate (321 g.) is thus obtained in the form of an oil which gradually solidifies.

reactant | Ethyl 4-chloro-2-hydroxyimino-3-oxo-butyrate | 340 g | ClCC(C(C(=O)OCC)=NO)=O | C6H8ClNO4
reactant | 2-mercapto-ethanol | 126 cc | SCCO | C2H6OS
reactant | Triethylamine | 248 cc | C(C)N(CC)CC | C6H15N
solvent | chloroform | 1.5 liters | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1 liter | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 4-(2-hydroxy-ethylthio)-2-hydroxyimino-3-oxo-butyrate | 321 g | OCCSCC(C(C(=O)OCC)=NO)=O | C8H13NO5S
